US06008229
A mixture of 8-[3-[4-(tert-butoxycarbonyl)piperazine-1-carbonyl]-2,6-dichlorobenzyloxy]-2-methylquinoline (260 mg) and 4N solution of hydrogen chloride in ethyl acetate (2 ml) was stirred for 40 minutes at ambient temperature. The mixture was concentrated in vacuo, and the residue was crystallized from acetonitrile to give 8-[2,6-dichloro-3-(piperazine-1-carbonyl)benzyloxy]-2-methylquinoline dihydrochloride (227 mg) as pale yellow crystals.

reactant | 8-[3-[4-(tert-butoxycarbonyl)piperazine-1-carbonyl]-2,6-dichlorobenzyloxy]-2-methylquinoline | 260 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C=1C(=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC1)Cl)Cl | C27H29Cl2N3O4
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | 8-[2,6-dichloro-3-(piperazine-1-carbonyl)benzyloxy]-2-methylquinoline dihydrochloride | 227 mg | Cl.Cl.ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1C(=O)N1CCNCC1)Cl | InChI=1S/C22H21Cl2N3O2.2ClH/c1-14-5-6-15-3-2-4-19(21(15)26-14)29-13-17-18(23)8-7-16(20(17)24)22(28)27-11-9-25-10-12-27;;/h2-8,25H,9-13H2,1H3;2*1H
